US08404851B2
1-(2-Chloro-6-methyl-pyridine-4-carbonyl)-3-(2,2-difluoro-benzo[1,3]dioxol-5-yl)thiourea (D1)
Thiocyanic acid, ammonium salt (1:1) (9.35 g; 0.1230 mol) was stirred in 2-propanone (300 ml) at room temperature. 2-Chloro-6-methyl-4-pyridinecarbonylchloride (22.2 g; 0.1170 mol) was then added and the reaction mixture was stirred for 2 hours at room temperature. 2,2-Difluoro-1,3-benzodioxol-5-amine (19.2 g; 0.1110 mol) in some 2-propane was added and the reaction mixture was stirred for 1 hour at room temperature. The reaction mixture was then poured onto ice and the residue was filtered off and dried. Yield: 38.1 g of intermediate D1.

reactant | Thiocyanic acid, ammonium salt | 0.1230 mol, 9.35 g | [NH4+].N#C[S-]
reactant | 2-Chloro-6-methyl-4-pyridinecarbonylchloride | 0.1170 mol, 22.2 g | ClC1=NC(=CC(=C1)C(=O)Cl)C | C7H5Cl2NO
reactant | 2,2-Difluoro-1,3-benzodioxol-5-amine | 0.1110 mol, 19.2 g | FC1(OC2=C(O1)C=CC(=C2)N)F | C7H5F2NO2
solvent | 2-propanone | 300 ml | CC(C)=O | C3H6O
product | 1-(2-Chloro-6-methyl-pyridine-4-carbonyl)-3-(2,2-difluoro-benzo[1,3]dioxol-5-yl)thiourea | ClC1=NC(=CC(=C1)C(=O)NC(=S)NC1=CC2=C(OC(O2)(F)F)C=C1)C | C15H10ClF2N3O3S
